US05089505
3-Hydroxy-4-methoxyphenethyl chloride
A mixture of 3-hydroxy-4-methoxyphenethyl alcohol (2.25 g) and thionyl chloride (5 ml) in methylene chloride (120 ml) was heated under reflux for 16 hours and evaporated. The residue was azeotroped twice with hexane and purified by chromatography on silica (30 g) using methylene chloride plus 0-6% methanol as the eluant. Appropriate fractions were combined and evaporated to give the title compound as a colourless solid (0.82 g, 33%), m.p. 53°-54°, which was characterised by its 1H-n.m.r. spectrum.

reactant | 3-hydroxy-4-methoxyphenethyl alcohol | 2.25 g | OC=1C=C(CCO)C=CC1OC | C9H12O3
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | 3-Hydroxy-4-methoxyphenethyl chloride | 0.82 g, 33% | OC=1C=C(CCCl)C=CC1OC | C9H11ClO2
